US05998436
Synthesis of ethyl 1-[6-(t-butylamino)-3,5-difluoropyridin-2-yl]-6,7-difluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylate
To the solution of 4.6 g of the thus obtained ethyl 2-(2,4,5-trifluoro-3-methylbenzoyl)-3-[6-(t-butylamino)-3,5-difluoropyridin-2-yl]aminoacrylate in 10 ml dimethylformamide was added 1.35 g of potassium carbonate, and the mixture was stirred at 100° C. for 50 minutes. The reaction solution was extracted by adding water and acetic acid, and the organic layer was collected and dried over magnesium sulfate. The solvent was distilled off, and the residue was collected by filtration with ethanol and washed with diethylether to obtain 2.6 g of the title compound as a pale yellow powder.

reactant | ethyl 2-(2,4,5-trifluoro-3-methylbenzoyl)-3-[6-(t-butylamino)-3,5-difluoropyridin-2-yl]aminoacrylate | FC1=C(C(=O)C(C(=O)OCC)=CNC2=NC(=C(C=C2F)F)NC(C)(C)C)C=C(C(=C1C)F)F | C22H22F5N3O3
reactant | potassium carbonate | 1.35 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 1-[6-(t-butylamino)-3,5-difluoropyridin-2-yl]-6,7-difluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylate | 2.6 g | C(C)(C)(C)NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)C)F)F)=O)C(=O)OCC)F)F | C22H21F4N3O3
